US07915424B2
5-Trimethylsilanylethynyl-nicotinic acid ethyl ester
A solution of ethyl-5-bromonicotinate (30 g, 130.40 mmol), triethylamine (78 mL) and ethyl acetate (130 mL) is degassed for 15 min. Add trimethylsilylacetylene (88.46 mL, 625.92 mmol), bis(triphenylphosphine)palladium (II) dichloride (4.57 g, 6.52 mmol) and copper (I) iodide (0.25 g, 1.30 mmol) and stir at 50° C. under-nitrogen for 16 h. Cool to room temperature, filter through diatomaceous earth, wash with ethyl acetate, and concentrate. Purify the residue by silica gel chromatography, eluting with 10:1 hexanes:ethyl acetate, to give the title compound (27.7 g, 86%).

reactant | ethyl-5-bromonicotinate | 130.40 mmol, 30 g | C(C)OC(C1=CN=CC(=C1)Br)=O | C8H8BrNO2
reactant | triethylamine | 78 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 625.92 mmol, 88.46 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | bis(triphenylphosphine)palladium | 6.52 mmol, 4.57 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 1.30 mmol, 0.25 g | [Cu]I
solvent | ethyl acetate | 130 mL | C(C)(=O)OCC | C4H8O2
product | 5-Trimethylsilanylethynyl-nicotinic acid ethyl ester | 27.7 g, 86% | C(C)OC(C1=CN=CC(=C1)C#C[Si](C)(C)C)=O | C13H17NO2Si
